US07582638B2
1-[5-(2-Fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-[1-(piperidin-4-yloxy)-isoquinolin-4-yl]-urea hydrochloride
Stir 4-(4-{3-[5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-ureido}-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (1.1 mmol, 0.6 g) and dissolve in 5 mL of dichloromethane and hydrogen chloride 4.0 M in dioxane (5.3 mmol, 1.3 mL) at room temperature overnight. Concentrate under reduced pressure. Triturate the white solid formed with diethyl ether. LCMS ES+ (m/z) 535 [M+H].

reactant | 4-(4-{3-[5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-ureido}-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)NC(=O)NC=1N(N=C(C1)C(CF)(C)CF)C1=CC=C(C=C1)C | C34H40F2N6O4
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | dioxane | 5.3 mmol, 1.3 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[5-(2-Fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-[1-(piperidin-4-yloxy)-isoquinolin-4-yl]-urea hydrochloride | Cl.FCC(C)(CF)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CN=C(C2=CC=CC=C12)OC1CCNCC1 | InChI=1S/C29H32F2N6O2.ClH/c1-19-7-9-20(10-8-19)37-26(15-25(36-37)29(2,17-30)18-31)35-28(38)34-24-16-33-27(23-6-4-3-5-22(23)24)39-21-11-13-32-14-12-21;/h3-10,15-16,21,32H,11-14,17-18H2,1-2H3,(H2,34,35,38);1H
